US05389292
1-(4-Ethoxyphenyl)-2-(4'-difluoromethoxyphenyl)-ethene
22.2 g of 4-ethoxystyrene, 33.5 g of 4-(difluoromethoxy)bromobenzene (available from 4-bromophenol analogously to Example 1)), 0.67 g of palladium(II) acetate, 20.8 ml of triethylamine and 1.83 g of tri-o-tolylphosphine are heated to boiling in 225 ml of acetonitrile for 24 hours. After cooling to 0° C., the crystals are filtered off with suction and washed with acetonitrile and water. m.p.: 177° C.

reactant | 4-ethoxystyrene | 22.2 g | C(C)OC1=CC=C(C=C)C=C1 | C10H12O
reactant | 4-(difluoromethoxy)bromobenzene | 33.5 g | FC(OC1=CC=C(C=C1)Br)F | C7H5BrF2O
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | tri-o-tolylphosphine | 1.83 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile | 225 ml | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.67 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 20.8 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-Ethoxyphenyl)-2-(4'-difluoromethoxyphenyl)-ethene | C(C)OC1=CC=C(C=C1)C=CC1=CC=C(C=C1)OC(F)F | C17H16F2O2
